US06291464B1
N-[4-(4-Nitrobenzoyl)-1-piperazinyl]-4-fluorobenzamide (254 mg) was hydrogenated over 10% palladium on carbon (73 mg) in methanol (10 ml) at ambient temperature for 4 hours. The catalyst was filtered off over Celite pad and the filtrate was concentrated in vacuo to give crystals. The crystals were recrystallized from methanol, ethyl acetate and n-hexane to give N-[4-(4-aminobenzoyl)-1-piperazinyl]-4-fluorobenzamide (188 mg).

reactant | N-[4-(4-Nitrobenzoyl)-1-piperazinyl]-4-fluorobenzamide | 254 mg | [N+](=O)([O-])C1=CC=C(C(=O)N2CCN(CC2)NC(C2=CC=C(C=C2)F)=O)C=C1 | C18H17FN4O4
catalyst | palladium on carbon | 73 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | N-[4-(4-aminobenzoyl)-1-piperazinyl]-4-fluorobenzamide | 188 mg | NC1=CC=C(C(=O)N2CCN(CC2)NC(C2=CC=C(C=C2)F)=O)C=C1 | C18H19FN4O2
